US07084176B2
Preparation of 4-(2-bromoethoxy)-N-[3-(4-tert-butylcyclohexan-1-yl)phenyl]-3-methoxyphenylacetamide (Intermediate 5)
A mixture of N-[3-(4-tert-butylcyclohexan-1-yl)phenyl]-4-hydroxy-3-methoxyphenylacetamide (the compound of Example 20) (1.5 g), 1,2-dibromethane (15 ml), 40% aqueous potassium hydroxide solution (5 ml) and 40% aqueous tetrabutylammonium hydroxide solution (0.5 ml) is stirred at 50° C. for 18 hours. The reaction solution is washed with water, and the organic layer is dried over sodium sulfate, and the solvent is evaporated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: gradient from 0% to 100% hexane/ethyl acetate) to give the desired compound (1.6 g).

reactant | N-[3-(4-tert-butylcyclohexan-1-yl)phenyl]-4-hydroxy-3-methoxyphenylacetamide | C(C)(C)(C)C1CCC(CC1)C=1C=C(C=CC1)NC(CC1=CC(=C(C=C1)O)OC)=O | C25H33NO3
reactant | 1,2-dibromethane | 15 ml | BrCCBr | C2H4Br2
reactant | potassium hydroxide | 5 ml | [OH-].[K+]
reactant | tetrabutylammonium hydroxide | 0.5 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-(2-bromoethoxy)-N-[3-(4-tert-butylcyclohexan-1-yl)phenyl]-3-methoxyphenylacetamide | 1.6 g | BrCCOC1=C(C=C(C=C1)CC(=O)NC1=CC(=CC=C1)C1CCC(CC1)C(C)(C)C)OC | C27H36BrNO3
